US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[2-(methyloxy)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 1, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (30.8 mg, 0.110 mmol) and 1-bromo-2-(methyloxy)ethane (0.03 mL, 0.3 mmol) in 2 CH3CN/3 CHCl3 (2.5 nm) were reacted to give the desired product (11.1 mg, 24%). EI-MS m/z 338 (M+) Rt (1.64 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.110 mmol, 30.8 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 1-bromo-2-(methyloxy)ethane | 0.3 mmol, 0.03 mL | BrCCOC | C3H7BrO
solvent | CH3CN | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[2-(methyloxy)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide | 11.1 mg, 24% | [Br-].OC(C12CC[N+](CC1)(C2)CCOC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C22H28NO2.BrH/c1-25-17-16-23-14-12-21(18-23,13-15-23)22(24,19-8-4-2-5-9-19)20-10-6-3-7-11-20;/h2-11,24H,12-18H2,1H3;1H/q+1;/p-1
